US06133266
Benzyl 2-(2-benzyloxyethyl)-4-bromophenyl ether (24.0 g) was dissolved in 200 ml of tetrahydrofuran, 47.0 ml of 1.57 M n-butyl lithium in hexane was added to the solution with stirring at -95° C., and the mixture was subjected to 15 minutes of reaction. The reaction solution was added to a solution of 10.8 g of diethyl oxalate in 300 ml of tetrahydrofuran with stirring at -95° C., and the resulting solution was subjected to 1 hour of reaction. Then, 200 ml of ethanol and 755 mg of sodium borohydride were added in that order. The reaction solution was stirred at -35° C. for 45 minutes, 4.70 ml of acetic acid was added, and the mixture was stirred for 15 minutes. Then, a solution of 6.9 g of sodium bicarbonate in 300 ml of water was added and then the mixture was concentrated under reduced pressure. The resulting concentrate was extracted with ethyl acetate, and the extract was washed with water and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was evaporated under reduced pressure and the resulting residue was purified by silica gel medium pressure liquid column chromatography (eluent: hexane/ethyl acetate=3/1) to give 19.9 g of ethyl 2-[4-benzyloxy-3-(2benzyloxyethyl)phenyl]-2-hydroxyacetate in an oily form.

reactant | Benzyl 2-(2-benzyloxyethyl)-4-bromophenyl ether | 24.0 g | C(C1=CC=CC=C1)OCCC1=C(C=CC(=C1)Br)OCC1=CC=CC=C1 | C22H21BrO2
reactant | n-butyl lithium | 1.57 M, 47.0 ml | C(CCC)[Li]
reactant | diethyl oxalate | 10.8 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium borohydride | 755 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | 6.9 g | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
solvent | acetic acid | 4.70 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-[4-benzyloxy-3-(2benzyloxyethyl)phenyl]-2-hydroxyacetate | 19.9 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(=O)OCC)O)CCOCC1=CC=CC=C1 | C26H28O5
